US05250669
(1) Synthesis of 1,7-diphenyl-3,5-heptanedione
To a suspension of sodium hydride (60% in oil, 17 g) in dry cyclohexane (200 ml), a solution of 2,4-pentanedione (37 g, 0.37 mol) in dry cyclohexane was added dropwise at room temperature with stirring under nitrogen, and the resultant mixture was stirred for 40 min at the same temperature. To this suspension, N,N,N',N'-tetramethylethylenediamine (91.8 g) was added dropwise, followed by the dropwise addition of n-butyllithium (1.6M in n-hexane solution, 337 g) at 0° C. or lower and the resultant mixture was stirred for 24 h at room temperature. Then to this suspension, benzyl chloride (93.7 g) was added dropwise at 0°-5° C., stirring was continued for 2 h at room temperature and standed for overnight. The reaction mixture was poured into dilute hydrochloric acid, the organic layer was separated, washed thrice with H2O, dried over MgSO4 and evaporated. The residue (79 g) was distilled under reduced pressure to give the title compound as a pale yellow oil; yield: 23.5 g; bp 185°-190° C./0.4 mmHg.

reactant | sodium hydride | 17 g | [H-].[Na+]
reactant | 2,4-pentanedione | 0.37 mol, 37 g | CC(CC(C)=O)=O | C5H8O2
reactant | N,N,N',N'-tetramethylethylenediamine | 91.8 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 337 g | C(CCC)[Li]
reactant | benzyl chloride | 93.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
reactant | cyclohexane | 200 ml | C1CCCCC1 | C6H12
product | 1,7-diphenyl-3,5-heptanedione | C1(=CC=CC=C1)CCC(CC(CCC1=CC=CC=C1)=O)=O | C19H20O2
